US08198279B2
1-(2-fluoro-5-(trifluoromethyl)phenyl)-3-(2-(methylthio)-4-(2-oxo-1,2-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea (AA-046)
Using Method F2 with 8-(4-amino-3-(methylthio)phenoxy)pyrido[2,3-b]pyrazin-2(1H)-one and 2-fluoro-5-trifluoromethylphenyl isocyanate, the title compound (37 mg, 73%) was obtained as a powder.

reactant | 8-(4-amino-3-(methylthio)phenoxy)pyrido[2,3-b]pyrazin-2(1H)-one | NC1=C(C=C(OC2=CC=NC=3N=CC(NC32)=O)C=C1)SC | C14H12N4O2S
reactant | 2-fluoro-5-trifluoromethylphenyl isocyanate | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
product | 1-(2-fluoro-5-(trifluoromethyl)phenyl)-3-(2-(methylthio)-4-(2-oxo-1,2-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea | 37 mg, 73% | FC1=C(C=C(C=C1)C(F)(F)F)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC=2N=CC(NC21)=O)SC | C22H15F4N5O3S
